US07579368B2
To a solution of 5-bromo-4-chloro-2-ethoxy-benzoic acid ethyl ester (940 mg, 3.0 mmol) in 20 mL of dimethylformamide was added copper(I) cyanide (327 mg, 3.65 mmol). The reaction was stirred at reflux overnight. The reaction was diluted with methylene chloride. It was washed twice with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. Purification of the crude residue by flash column chromatography (silica gel, eluting with a gradient of ethyl acetate in hexanes) gave 4-chloro-5-cyano-2-ethoxy-benzoic acid ethyl ester (359 mg, 47%). LC-MS: 254.1 [(M+H)+].

reactant | 5-bromo-4-chloro-2-ethoxy-benzoic acid ethyl ester | 3.0 mmol, 940 mg | C(C)OC(C1=C(C=C(C(=C1)Br)Cl)OCC)=O | C11H12BrClO3
reactant | copper(I) cyanide | 3.65 mmol, 327 mg | [Cu]C#N
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-chloro-5-cyano-2-ethoxy-benzoic acid ethyl ester | 359 mg, 47% | C(C)OC(C1=C(C=C(C(=C1)C#N)Cl)OCC)=O | C12H12ClNO3
